US07365066B2
4-(2-Pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)quinolin-7-ol
Add ethanethiol (6.8 mL, 92.5 mmol), followed by a sodium hydride (60% dispersion in mineral oil, 3.7 g, 92.5 mmol) to a solution of 7-methoxy-4-(2-pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)-quinoline (1.63 g, 4.6 mmol) in DMF (50 mL) at room temperature. Following the same procedure described above affords the title compound 0.8 g (52%) as a yellow solid.

reactant | ethanethiol | 92.5 mmol, 6.8 mL | C(C)S | C2H6S
reactant | sodium hydride | 92.5 mmol, 3.7 g | [H-].[Na+]
reactant | 7-methoxy-4-(2-pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)-quinoline | 4.6 mmol, 1.63 g | COC1=CC=C2C(=CC=NC2=C1)C=1C(=NN2C1C=CC=C2)C2=NC=CC=C2 | C22H16N4O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(2-Pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)quinolin-7-ol | 0.8 g, 52% | N1=C(C=CC=C1)C1=NN2C(C=CC=C2)=C1C1=CC=NC2=CC(=CC=C12)O | C21H14N4O
